* /home/kanish/sky130pdk-based-mux/mux/mux.cir

.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
xsc3 y clkb vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc4 vdd clk y y sky130_fd_pr__nfet_01v8_lvt 
xsc5 y clk gnd gnd sky130_fd_pr__pfet_01v8_hvt 
xsc6 gnd clkb y y sky130_fd_pr__nfet_01v8_lvt 
v1  clk gnd pulse(0 1.8 0.1m 0.1m 0.1m 2m 4m)
v2 vdd gnd  dc 1.8
xsc1 clkb clk vdd vdd sky130_fd_pr__pfet_01v8_hvt 
xsc2 clkb clk gnd gnd sky130_fd_pr__nfet_01v8_lvt 
* u1  clk plot_v1
* u2  clkb plot_v1
* u3  y plot_v1
* s c m o d e
.tran 1e-03 15e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(clk)
plot v(clkb)
plot v(y)
.endc
.end
